* indentify non-viable inductive systems ("altering" case)

* exercise "alter" and "indverbosity"

* (compile (concat "../../../w32/src/ngspice " buffer-file-name) t)
* (compile (concat "valgrind --track-origins=yes --leak-check=full --show-reachable=yes ../../../w32/src/ngspice " buffer-file-name) t)


V1 x 0 dc=0 ac=1
Rx x 1 1
R1 2 0 1k
R2 3 0 1k

L1 1 0  10u
L2 2 0  11u
L3 3 0  10u

k12 L1 L2 0
k23 L2 L3 0
k13 L1 L3 0

R101 101 0 1k
L101 101 0 1u
L102 102 0 2u
L103 103 0 3u
K1012 L101 L102 0.1
K1013 L101 L103 0.2

.AC LIN 5k 1k 10MEG

.control
listing e

echo coupling factors 0 0 0 -- ok
op

alter k12 0.96
alter k23 0.99
alter k13 0.98
echo coupling factors 0.96 0.98 0.98 -- ok
op

alter k12 0.96
alter k23 0.99
alter k13 0.9898988607
echo coupling factors 0.96 0.98 0.9898988607 -- ok
op

alter k12 0.96
alter k23 0.99
alter k13 0.9898988608
echo coupling factors 0.96 0.98 0.9898988608 -- not ok
op

alter k12 1
alter k23 1
alter k13 1
echo coupling factors 1 1 1 -- not ok
op

echo coupling factors 1.01 1 1 -- not ok
alter k12 1.01
set indverbosity = 2
echo "op with indverbosity=2"
op
set indverbosity = 1
echo "op with indverbosity=1"
op
set indverbosity = 0
echo "op with indverbosity=0"
op
 
destroy all
remcirc
 
quit

.endc

.END
